US06153611
Trans 1-[4-(4-fluorophenyl)-1-cyclohexyl]-4-[(3-methoxyphenyl)methyl]piperazine
The title compound was prepared from trans 1-[4-(4-fluorophenyl)-1-cyclohexyl]piperazine (0.39 g, 1.5 mmole) and 3-methoxybenzyl chloride (0.22 g, 1.5 mmole) by the method described in example 45 to give the product (61%, mp: 84-85° C.). Calc'd for C24H31FN2O: C, 75.36%; H, 8.17%; N, 7.33%. Found: C, 75.53%; H, 8.23%; N, 7.30%.

reactant | trans 1-[4-(4-fluorophenyl)-1-cyclohexyl]piperazine | 1.5 mmole, 0.39 g | FC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N1CCNCC1 | C16H23FN2
reactant | 3-methoxybenzyl chloride | 1.5 mmole, 0.22 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
product | Trans 1-[4-(4-fluorophenyl)-1-cyclohexyl]-4-[(3-methoxyphenyl)methyl]piperazine | FC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N1CCN(CC1)CC1=CC(=CC=C1)OC | C24H31FN2O
